US07834205B2
Synthesis of 6-tert-butyl-5-methoxy-2-methyl-1-indanone
A mixture of 1-tert-butyl-2-methoxybenzene (32.8 g, 0.2 mol) and methacrylic acid (21.5 g, 0.25 mol) was added at 60° C. to a well stirred Eaton reagent (55 g P2O5 and 280 ml of methanesulfonic acid). After 1 h of stirring the reaction mixture was cooled, poured into ice water, and extracted with benzene (3×200 ml). The combined organic layer was washed with water, aq. NaHCO3, dried over MgSO4, evaporated and distilled at 145-150° C./0.7 Torr. Yield 20 g (43%).

reactant | 1-tert-butyl-2-methoxybenzene | 0.2 mol, 32.8 g | C(C)(C)(C)C1=C(C=CC=C1)OC | C11H16O
reactant | methacrylic acid | 0.25 mol, 21.5 g | C(C(=C)C)(=O)O | C4H6O2
solvent | Eaton reagent | 280 ml, 55 g | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | 6-tert-butyl-5-methoxy-2-methyl-1-indanone | C(C)(C)(C)C1=C(C=C2CC(C(C2=C1)=O)C)OC | C15H20O2
